US03969463
Using the method of Example 49, 10-amino-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid is reacted with acetic anhydride to provide 10-acetamido-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, m.p. >300° C.

reactant | 10-amino-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | NC=1C=CC=2CCCN3C=C(C(C1C23)=O)C(=O)O | C13H12N2O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 10-acetamido-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | C(C)(=O)NC=1C=CC=2CCCN3C=C(C(C1C23)=O)C(=O)O | C15H14N2O4
